US05260310
A solution of 10.4 g of monomethyl methoxymalonate in 70 ml of methylene chloride was added dropwise at -10° C. to 26 ml of 25 percent aqueous ammonia. After stirring the mixture was evaporated and the residue was dissolved in water and chromato-graphed on a cation exchanger with water. The eluate was concentrated and the residue was triturated with diethyl ether and filtered off. The precipitate was washed with water and dried. There were obtained 8.9 g of methoxymalonamic acid, m.p. 128°-130° C.

reactant | monomethyl methoxymalonate | 10.4 g | COC(C(=O)OC)C(=O)[O-]
reactant | ammonia | N | H3N
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | methoxymalonamic acid | 8.9 g | COC(C(=O)O)C(=O)N | C4H7NO4
